US04490774
A solution of 51 grams (0.20 mole) of 1,2-hexadecanediol, 100 ml. (1.5 moles) of acrylic acid, 1.5 grams of p-toluenesulfonic acid and 2 grams of p-methoxyphenol in 400 grams of toluene was heated for about 24 hours under reflux as water was removed by azeotropic distillation. The solution was cooled, filtered and washed several times with dilute potassium carbonate solution and once with dilute sodium chloride solution. It was then dried and the solvent was evaporated to afford the desired 1,2-hexadecanediol diacrylate as a liquid.

reactant | 1,2-hexadecanediol | 0.20 mole, 51 grams | C(C(CCCCCCCCCCCCCC)O)O | C16H34O2
reactant | acrylic acid | 1.5 moles | C(C=C)(=O)O | C3H4O2
reactant | p-toluenesulfonic acid | 1.5 grams | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | p-methoxyphenol | 2 grams | COC1=CC=C(C=C1)O | C7H8O2
solvent | toluene | 400 grams | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 1,2-hexadecanediol diacrylate | C(C=C)(=O)OCC(CCCCCCCCCCCCCC)OC(C=C)=O | C22H38O4
